### PR TITLE
Suggestions for `FixDetMatsReps`

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jcommelin** [comment]
bot fix style

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 1]
```diff
@@ -128,110 +130,106 @@ private lemma A_a_ne_zero {A : Δ m} (ha : A.1 1 0 = 0) (hm : m ≠ 0) : A.1 0 0
...
+  | step A h1 h2 => simpa only [reduce_reduceStep h1] using h2
+  | base A h =>
     have hd := A_d_ne_zero h hm
     by_cases h1 : 0 < A.1 0 0
-    focus simp only [reduce_of_pos h h1]
-    swap
-    focus simp only [reduce_of_not_pos h h1]
-    swap
-    all_goals
+    · simp only [reduce_of_pos h h1]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:178]: Here I expanded the proof quite a bit. But I think that the massive `all_goals simp only` is quite impenetrable. And hard to maintain if it might break at some point in the future.

Comment (MichaelStollBayreuth) [reply Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:178]: (I'm responsible for that, I guess; I tried to combine the two massive `simp only`s that used to be there before, as they were fairly similar.)
